US07888376B2
(S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine (0.15 g, 0.38 mmol) was dissolved in dichloromethane (5 mL) at room temperature. Solid powdered K2CO3 (0.52 g, 3.8 mmol) was added followed by 4-nitrophenyl carbonochloridate (0.11 g, 0.56 mmol). The resulting slurry was stirred at room temperature for 14 h, diluted with DCM (ca. 50 mL) and washed with sat. NaHCO3 (ca. 4×20 mL). The organic portion was dried over anhydrous Na2SO4, decanted and concentrated yielding (S)-4-nitrophenyl 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethylcarbamate as a pale brown oil, (0.20 g, crude quantitative yield). LCMS: 2.26 min [M+1] 560.2 (2 min gradient, MeOH/H2O 0.1% TFA)

reactant | (S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine | 0.38 mmol, 0.15 g | ClC=1C=CC(=NC1)[C@@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)C(F)(F)F)F | C20H15ClF4N2
reactant | K2CO3 | 3.8 mmol, 0.52 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-nitrophenyl carbonochloridate | 0.56 mmol, 0.11 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | DCM | ca. 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-4-nitrophenyl 1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethylcarbamate | quantitative yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)C(F)(F)F)F)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C27H18ClF4N3O4
